* Test 3 Check: Slower current step to distinguish loop response from limiter trip
* PVDD 5V LDO — same as T3 but slower 1us step edge to avoid limiter false trip
* Also check: is the drop truly from 9mA only or something more?

.param mc_mm_switch = 0
.param MC_MM_SWITCH = 0
.subckt sky130_fd_pr__model__parasitic__res_po r0 r1 sub w=1 l=1
c0 r0 sub {0.1e-15*w*l}
c1 r1 sub {0.1e-15*w*l}
.ends sky130_fd_pr__model__parasitic__res_po
.lib "../sky130.lib.spice" tt
.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/parameters/invariant.spice"
.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_01v8__tt.pm3.spice"
.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8__tt.corner.spice"

.include ../00_error_amp/design.cir
.include ../01_pass_device/design.cir
.include ../02_feedback_network/design.cir
.include ../03_compensation/design.cir
.include ../04_current_limiter/design.cir
.include ../05_uv_ov_comparators/design.cir
.include ../06_level_shifter/design.cir
.include ../07_zener_clamp/design.cir
.include ../08_mode_control/design.cir
.include ../09_startup/design.cir

XM_pass gate bvdd pvdd pass_device
Rss avbg vref_ss 100k
Css vref_ss 0 10n
XEA vref_ss vfb ea_out pvdd 0 ibias bvdd bvdd error_amp
XFB pvdd vfb 0 feedback_network
XCOMP ea_out pvdd 0 compensation
XILIM gate bvdd pvdd 0 ilim_flag current_limiter
XUV pvdd avbg uv_flag svdd 0 uvov_en uv_comparator
XOV pvdd avbg ov_flag svdd 0 uvov_en ov_comparator
XZC pvdd 0 zener_clamp
XMC bvdd pvdd svdd 0 avbg en_ret bypass_en mc_ea_en ref_sel uvov_en ilim_en pass_off mode_control
XSU bvdd pvdd gate 0 avbg startup_done bvdd ea_out startup
XLS_EN en en_bvdd bvdd svdd 0 level_shifter_up
Cload pvdd 0 200e-12
Cout_big pvdd 0 100n

* DC load: 5k (~1mA)
Rload pvdd 0 5k
* Slower 1ms step edge (instead of 1us) to avoid limiter false-trip
Istep pvdd 0 PWL(0 0 200m 0 201m 9m 205m 9m 206m 0 210m 0)

Vbvdd bvdd 0 PWL(0 0 10u 7 220m 7)
Vavbg avbg 0 1.226
Ibias ibias 0 DC 1u
Vsvdd svdd 0 2.2
Ven en 0 PWL(0 0 0.5u 0 1u 2.2)
Ven_ret en_ret 0 0

.option reltol=1e-4 abstol=1e-12 vntol=1e-6
.option method=gear maxord=2
.option itl1=500 itl2=500 itl4=500

.ic V(pvdd)=0 V(bvdd)=0
.tran 5u 220m uic

.meas tran v_before_s  avg V(pvdd) from=199m to=200m
.meas tran v_min_s     MIN V(pvdd) from=200m to=205m
.meas tran v_max_s     MAX V(pvdd) from=205m to=210m
.meas tran v_after_s   avg V(pvdd) from=208m to=210m

.control
run
quit
.endc
.end
